* OVERALL BEST CANDIDATE: 00_Phase_2_9V_to_80V_Specialized_Boost_g1_cand3_b10
* FITNESS SCORE: 0.5999
*
* Generated: 2026-06-04T23:37:39
* Constraint: Phase 2: 9V to 80V Specialized (Boost)
*   vin_min = 8
*   vin_max = 10
*   vout_target = 80
*   efficiency_target = 0.86
*   power_in = 80
* Candidate: 3 of 12
* Grouped name: g1_cand3
*
* 8V to 80V Boost, 80W
Vin in 0 8
L1 in sw 47u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 80
Vgate gate 0 PULSE(0 12 0 1n 1n 6.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
